US05688946
A solution of 270 mg of tert-butyl [(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3,4-trihydroxybutyl]carbamate, 15 ml of methanol and 10 ml of 2N hydrochloric acid is heated to 50° overnight. Subsequently, the reaction solution is evaporated to dryness under reduced pressure, the residue obtained is taken up twice in toluene and evaporated to dryness under reduced pressure each time. The crude (2RS,3R,4S)-4-amino-5-cyclohexyl-1,2,3-pentanetriol obtained is used in the next step without further purification; MS: 218 (M+H)+.

reactant | tert-butyl [(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3,4-trihydroxybutyl]carbamate | 270 mg | C1(CCCCC1)C[C@@H]([C@H](C(CO)O)O)NC(OC(C)(C)C)=O | C16H31NO5
reactant | methanol | 15 ml | CO | CH4O
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2RS,3R,4S)-4-amino-5-cyclohexyl-1,2,3-pentanetriol | N[C@H]([C@H](C(CO)O)O)CC1CCCCC1 | C11H23NO3
